US04411893
Synthesis of Diheptylmethyl amine oxide
To a solution of 6.6 g of diheptylmethyl amine in 25 ml tetrahydrofuran (THF) was added 12 ml 30% hydrogen peroxide. The reaction mixture was refluxed for 24 hours, cooled to room temperature and then stirred with 0.2 mg platinum black overnight. After filtering the reaction mixture through Hyflo® filter-aid, the THF was removed in vacuo. The aqueous solution was extracted with 100 ml ether. The aqueous portion of the extraction was allowed to stand for several days to allow most of the water to evaporate. The resulting solution was found to be 40% water and 60% diheptylmethyl amine oxide by NMR analysis.

reactant | diheptylmethyl amine | 6.6 g | C(CCCCCC)N(C)CCCCCCC | C15H33N
reactant | hydrogen peroxide | 12 ml | OO | H2O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | platinum black | 0.2 mg | [Pt] | Pt
product | Diheptylmethyl amine oxide | C(CCCCCC)[N+](C)(CCCCCCC)[O-] | C15H33NO
